### PR TITLE
Eliminate derived keygen coherence certificates

### PR DESCRIPTION
**Pull request by mitschabaude**
Derives Action circuit correctness from compositional Clean/Halo2 lawfulness instead of full-circuit native checks.

- Integrates keygen, query, permutation, copy, selector, planner, domain, constraint-degree, and fixed-column laws across the circuit hierarchy.
- Deletes the corresponding Action-specific sidecars and 27 unique native certificate dependencies: 19 circuit/layout checks and eight fixed-window/scalar checks.
- Retains native checks for pinned fixture data, rather than using them to establish circuit-correctness claims.

### CODE REVIEW

**Comment by TalDerei** [comment]
as part of this scope, can we close any other coverage gaps tracked in the .md files under the [integration](https://github.com/zcash/ironwood/tree/main/Zcash/Circuits/Integration) subdirectory, and then maybe consider getting rid of those artifacts?

File: Zcash/Circuits/Integration/ActionCopyWitness.lean [hunk 1]
```diff
@@ -195,9 +202,61 @@ def actionChunkFlatten
...
         poly proofIndex chunk).length)
     actionChunkLen_pos
-    actionPermutationChunks_cover
+    (by
+      simpa only [actionCircuit.shape_numPermutationSets] using
+        actionPermutationChunks_cover)
     (actionResolverChunkWidth pp urs poly proofIndex)
 
+@[simp]
+theorem actionChunkFlatten_apply_column
```
Comment (mitschabaude) [inline Zcash/Circuits/Integration/ActionCopyWitness.lean]: this simp lemma and the two below seem obscure to me. can't you just use them directly? I only want simp to be added on lemmas where the RHS is a genuine normal form and we want to see the LHS replaced everywhere

File: Zcash/Circuits/Integration/ActionCorrectness.lean [hunk 2]
```diff
@@ -34,14 +34,14 @@ statement.
...
-      actionCircuit.domainExponent = urs.k)
+      (actionCircuit.shape.withProofParams pp).k = urs.k)
     (inputs :
       Fin pp.numProofs →
         PublicInputs Fp)
     (ps : ProofString
       (actionCircuit.shape.withProofParams pp) Fp G)
     (ch : Challenges
-      actionCircuit.domainExponent Fp)
+      (actionCircuit.shape.withProofParams pp).k Fp)
```
Comment (mitschabaude) [inline Zcash/Circuits/Integration/ActionCorrectness.lean]: spelling regressions, is this necessary?

File: Zcash/Circuits/Integration/ActionEncoding.lean [hunk 3]
```diff
@@ -46,14 +44,14 @@ presentation.
...
-      actionCircuit.shape.k = urs.k)
+      (actionCircuit.shape.withProofParams pp).k = urs.k)
     (instanceCommitment :
       Fin pp.numProofs →
         ℕ → G)
     (ps : ProofString
       (actionCircuit.shape.withProofParams pp) Fp G)
     (ch : Challenges
-      actionCircuit.shape.k Fp)
+      (actionCircuit.shape.withProofParams pp).k Fp)
```
Comment (mitschabaude) [inline Zcash/Circuits/Integration/ActionEncoding.lean]: spelling and heartbeart regressions necessary?

File: Zcash/Circuits/Integration/ActionPermutationCycle.lean [hunk 4]
```diff
@@ -224,21 +185,30 @@ theorem actionRowsInjectiveAtUrs
...
 set_option maxRecDepth 100000 in
 def actionResolverPermutationCycle_or_relation
     (pp : ProofParams) (urs : URS G)
-    (hk : actionCircuit.domainExponent = urs.k)
+    (hk : (actionShape pp).k = urs.k)
     {instanceCommitment :
       Fin pp.numProofs → ℕ → G}
     {ps : ProofString (actionShape pp) Fp G}
-    {ch : Challenges actionCircuit.domainExponent Fp}
+    {ch : Challenges actionCircuit.shape.k Fp}
```
Comment (mitschabaude) [inline Zcash/Circuits/Integration/ActionPermutationCycle.lean]: respelling necessary?

File: Zcash/Circuits/Ecc/MulIncompleteRound.lean [hunk 5]
```diff
@@ -127,21 +127,21 @@ def forLoopPolys (cfg : Config) (yANext : Expression Fp Query) :
 derived next-row `y_a`. -/
 def qMul1Gate (cfg : Config) : Gate Fp :=
   -- `y_a(next)` is built before `y_a_witnessed` in the Rust closure, so the `Y_A` helper's
-  -- atoms (xA/λ₁/λ₂ @ next) register ahead of `λ₁ @ cur`.
+  -- atoms (xA/λ₁/λ₂/xP @ next) register ahead of `λ₁ @ cur`.
   Gate.withSelector "q_mul_1 == 1 checks" cfg.qMul1
     [ queryAdvice cfg.xA 1, queryAdvice cfg.lambda1 1, queryAdvice cfg.lambda2 1,
-      queryAdvice cfg.lambda1 0 ] <|
+      queryAdvice cfg.xP 1, queryAdvice cfg.lambda1 0 ] <|
```
Comment (daira) [inline Zcash/Circuits/Ecc/MulIncompleteRound.lean:133]: Was this (and line 144 below) wrong before? If it was, how did the fingerprint match?

File: Zcash/Circuits/Integration/lawfulness-and-certificate-elimination.md [hunk 6]
```diff
@@ -37,30 +37,31 @@ The guiding rule is:
...
-configuration. If closure changes the raw constraint system, the model has repaired
-an invalid formal circuit instead of rejecting it.
+That produced a self-consistent internal object, but it was not Halo2's algorithm:
+synthesis may enable only gates and lookups established by configuration.
 
 The problem is not cured by comparing the resulting pinned CS with a captured VK.
 Such a comparison says that the *repaired derivation* matches the deployed data; it
 does not say that the repair was inactive. In particular, semantically redundant or
 projection-equivalent repairs need not be observable in every downstream pinned
 field.
```
Comment (daira) [inline Zcash/Circuits/Integration/lawfulness-and-certificate-elimination.md]: 😮

File: Zcash/Circuits/Integration/lawfulness-and-certificate-elimination.md [hunk 7]
```diff
@@ -220,43 +228,38 @@ shared concrete-circuit evaluation, and proof checking are included.
...
-| Gate data, degree, domain | `ActionGateCoherenceCompute.lean` | 10 s | 7.0 GB |
+| Constraint degree and domain | `ActionConstraintBoundsCompute.lean` | 10 s | 7.0 GB |
 | Primary-instance registration | `ActionInstanceCommitmentCompute.lean` | 4 s | 3.8 GB |
-| Domain, chunks, layouts, routing, delta powers | `ActionPermutationDomainCompute.lean` | 1–2 min | 7.4 GB |
+| Permutation column count | `ActionPermutationDomainCompute.lean` | 3 s | not remeasured |
 | Copy bounds, addresses, constants | `ActionCopyWitness.lean` | 30–40 s | 7.7 GB |
-| Fixed query coverage and realization | `ActionFixedCoherenceCompute.lean` | 40 s | 7.0 GB |
+| Fixed realization | `ActionFixedCoherenceCompute.lean` | 30 s | 7.0 GB |
 
 The serial total was roughly 2 minutes 40 seconds. These numbers should guide
```
Comment (daira) [inline Zcash/Circuits/Integration/lawfulness-and-certificate-elimination.md]: Recalculate this.

File: _typos.toml [hunk 8]
```diff
@@ -24,6 +24,8 @@ extend-exclude = [
 extend-ignore-identifiers-re = [
   "^[A-Za-z0-9_]{1,3}$",
   "^H[A-Za-z0-9]{3}$",
+  # Git revisions are opaque hexadecimal identifiers, not prose.
+  "^[0-9a-f]{8,40}$",
```
Comment (daira) [inline _typos.toml:28]: We march steadily toward the goal of neutralizing the typo check :-)

File: Zcash/Circuits/Ecc/MulIncompleteRound.lean (hunk 5 above)
Comment (mitschabaude) [reply Zcash/Circuits/Ecc/MulIncompleteRound.lean:133]: @daira probably that column was already queried at rotation 1 somewhere else: in that case, it's not added to the global `ConstraintSystem.adviceQueries`

File: Zcash/Snark/Fixtures/SingleAction/Honest/VkMatch.lean [hunk 9]
```diff
@@ -77,57 +73,12 @@ def capturedPinnedView : PinnedConstraintSystem Fp :=
...
-      = (actionPinnedCs, 11, true, true) := by
-  have h := bundle_pinned
-  simpa only [actionSelMap, actionK, actionCS] using h
-
 /-- **The capture is the derived Action circuit** (pinned CS, captured families). -/
-theorem capturedPinnedView_eq_derived : capturedPinnedView = actionPinnedCs := by
-  have h := capturedPinnedView_eq_derived_and_wellFormed
-  simp only [Prod.mk.injEq] at h
-  exact h.1
+theorem capturedPinnedView_eq_derived : capturedPinnedView = actionPinnedCs := by native_decide
```
Comment (TalDerei) [inline Zcash/Snark/Fixtures/SingleAction/Honest/VkMatch.lean:77]: missing native census pin

File: Zcash/Circuits/Action/AddressIntegrity.lean [hunk 10]
```diff
@@ -45,6 +45,106 @@ structure Input (F : Type) where
...
+  (Ecc.Mul.mulSynthesisSummary cfg.1).combine
+    ((FloorPlanner.SynthesisSummary.ofRegion
+      (Ecc.WitnessPoint.pointNonIdSynthesisSummary cfg.2 0)).combine
+        (FloorPlanner.SynthesisSummary.ofRegion {}))
+
+@[synthesis_summary_norm]
+theorem synthesisSummary_lookupActivationCount
+    (cfg : Ecc.Mul.Config × Ecc.WitnessPoint.Config) :
+    (synthesisSummary cfg).lookupActivationCount = 13 := by
+  simp only [synthesisSummary, synthesis_summary_norm]
```
Comment (TalDerei) [inline Zcash/Circuits/Action/AddressIntegrity.lean:60]: can every def / theorem have be documented?

File: Zcash/Circuits/Integration/ActionConstraintBounds.lean [hunk 11]
```diff
@@ -0,0 +1,48 @@
...
+/-- The deployed Orchard Action circuit satisfies the polynomial bridge's numerical
+bounds. -/
+theorem constraintBounds :
+    TopLevelConstraintBounds actionCircuit where
+  domainExponent_lt := domainExponent_lt
+  selectorDegree := selectorDegree
+
+assert_no_sorry constraintBounds
+assert_no_sorry selectorDegree
+assert_no_sorry domainExponent_lt
```
Comment (TalDerei) [inline Zcash/Circuits/Integration/ActionConstraintBounds.lean]: can we use fully qualified `assert_axioms` pins instead of these `assert_no_sorry`?

File: Zcash/Circuits/Sinsemilla/Merkle.lean [hunk 12]
```diff
@@ -1483,6 +2334,270 @@ def MerkleStep (G : Generators) (Q : Point Fp) (l : ℕ) (node node' : Fp) : Pro
...
+def MerkleRoot (G : Generators) (Q : Point Fp) : ℕ → Fp → ℕ → Fp → Prop
+  | _, node, 0, root => root = node
+  | l, node, k + 1, root =>
+    ∃ mid, MerkleStep G Q l node mid ∧ MerkleRoot G Q (l + 1) mid k root
+
+/-- One escape-free Merkle step. Unlike `MerkleStep`, this records that the
+Sinsemilla hash is defined, so the parent is its actual `x`-coordinate. Together
+with `MerkleBreakAt`, this is the Merkle-path breaks-as-data refinement requested
+by zcash/ironwood#45. -/
+def MerkleStepStrict (G : Generators) (Q : Point Fp) (l : ℕ)
```
Comment (TalDerei) [inline Zcash/Circuits/Sinsemilla/Merkle.lean:2346]: multiple instances of referencing closed #45.

**Review by TalDerei — APPROVED** [review]
left some observations, looks good otherwise!

File: Zcash/TrustBoundary.lean [hunk 13]
```diff
@@ -903,16 +790,13 @@ key-binding and ledger sections above, expresses them through the `Zcash.Meta.Ax
...
-  certificate — is this repository's own. Compiler trust here is overwhelmingly first-party, not
-  an inherited leaf; each `+native(...)` list names precisely which certificates its entry rests
-  on.
+  The reusable census in this file reaches four native owners. Three come from CompElliptic: the
+  two curve point-count witnesses (`Pallas.q_nsmul_Gpt`, `Vesta.p_nsmul_Gpt`) and the Pallas
+  Tonelli–Shanks root-of-unity data (`Fields.Pasta.pallasBase`, whose certificate sits in a
+  structure-field auto-param). The fourth is Ironwood's closed NU6.3 cross-address separation
+  check. The four dedicated fixture censuses separately permit Ironwood-owned closed checks of
+  captured data, cross-capture provenance, and the keygen/deployment seam. Each `+native(...)`
+  list names precisely which certificates its entry rests on.
```
Comment (TalDerei) [inline Zcash/TrustBoundary.lean]: can you verify this is true?

File: Zcash/Circuits/Action/AddressIntegrity.lean (hunk 10 above)
Comment (mitschabaude) [reply Zcash/Circuits/Action/AddressIntegrity.lean:60]: @TalDerei I don't think docstrings on lemmas like these are needed, they wouldn't do more than restate the theorem signature

**Comment by daira** [comment]
Does this close #110?
